US07015218B1
1-(4-Fluorophenyl)-3,5-dimethylpyrazole-4-carboxylic acid
Then, ethyl 1-(4-fluorophenyl)-3,5-dimethylpyrazole-4-carboxylate (15.5 g) was dissolved in a mixed solvent of ethanol (30 ml) and water (30 ml). Sodium hydroxide (2.75 g) was added and the mixture was stirred at a refluxing temperature for 30 min. After evaporation of ethanol, dilute hydrochloric acid was added to the residue. The obtained solid was recrystallized from aqueous methanol solution to give the title compound (11.5 g), melting point: 219–220° C.

reactant | ethyl 1-(4-fluorophenyl)-3,5-dimethylpyrazole-4-carboxylate | 15.5 g | FC1=CC=C(C=C1)N1N=C(C(=C1C)C(=O)OCC)C | C14H15FN2O2
reactant | Sodium hydroxide | 2.75 g | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 1-(4-Fluorophenyl)-3,5-dimethylpyrazole-4-carboxylic acid | 11.5 g | FC1=CC=C(C=C1)N1N=C(C(=C1C)C(=O)O)C | C12H11FN2O2
